US07189741B2
C. Preparation of 3-{4-[1-(2-pyridin-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 3.4 g (11 mmol) of 3-piperidin-4-yl-1-(2-pyridin-2-yl-ethyl)-1H-indole and 2.7 g (11.5 mmol) of 3-bromomethyl-benzoic acid methyl ester. After standard work-up and recrystallisation with dichloromethane/methanol, 1.4 g (29% of yield) of the expected acid were obtained.

reactant | 3-piperidin-4-yl-1-(2-pyridin-2-yl-ethyl)-1H-indole | 11 mmol, 3.4 g | N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCC1=NC=CC=C1 | C20H23N3
reactant | 3-bromomethyl-benzoic acid methyl ester | 11.5 mmol, 2.7 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-{4-[1-(2-pyridin-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | N1=C(C=CC=C1)CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C28H29N3O2
